US09388173B2
Step 2: 4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoic acid
Methyl 4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoate (264 mg, 0.95 mmol), NaOH (200 mg, 5 mmol) were placed in a 100-mL flask with covered with MeOH and H2O (1:1) and stirred for 4 h at room temperature. The solution was then evaporated, taken up in water and acidified with 2M HCl with the resulting the solid filtered off yielding the desired product as a white solid (200 mg, 90%). LCMS (m/z): 281.1 [M+H]

reactant | Methyl 4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoate | 0.95 mmol, 264 mg | BrC1=CC=NN1CC1=CC=C(C(=O)OC)C=C1 | C12H11BrN2O2
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | 4-((5-bromo-1H-pyrazol-1-yl)methyl)benzoic acid | 200 mg, 90% | BrC1=CC=NN1CC1=CC=C(C(=O)O)C=C1 | C11H9BrN2O2
